### ISSUE TITLE
Rewriting inside "if" error

### ISSUE THREAD

**Issue by Odomontois** [leanprover/lean4#1980]
### Prerequisites

* [X] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

Attempt to rewrite some code inside the "if" expression leads to "motive is not type correct error"

### Steps to Reproduce

Try to prove following theorem 

```lean
namespace Array
theorem zipWith_eq_size {n: Nat} {arr: Array α} {arr' : Array β} (f: α -> β -> γ) 
  (p: arr.size = n) (p': arr'.size = n)
  : (arr.zipWith arr' f).size = n := by 
    simp [zipWith,  size]
    unfold zipWithAux
    match n with 
    | 0 => 
      rw [<- p]
      simp [List.length]
      rw [p] 
    | n + 1 => 
      conv => 
        rw [p] -- error here
end Array
```

Have the context and goal in the form
```lean
α: Type u_1
β: Type u_2
γ: Type u_3
n✝: Nat
arr: Array α
arr': Array β
f: α → β → γ
n: Nat
p: size arr = n + 1
p': size arr' = n + 1
| List.length
    (if h : 0 < size arr then
        let a := arr[0];
        if h : 0 < size arr' then
          let b := arr'[0];
          zipWithAux f arr arr' (0 + 1) (push #[] (f a b))
        else #[]
      else #[]).data =
  n + 1
```
**Expected behavior:**
the `size arr` subterm is succesfully rewritten to `n + 1`

**Actual behavior:**
`tactic 'rewrite' failed, motive is not type correct`

**Reproduces how often:** Always

### Versions

version 4.0.0-nightly-2022-12-21, commit 586079462cb6, Release

### Additional Information

Any additional information, configuration or data that might be necessary to reproduce the issue.

**Comment by gebner** [comment]
Yes, `rw` usually doesn't work with dependent functions (like `if h : _ then _ else _` here).  Use `simp only [p]` instead.

**Comment by kbuzzard** [comment]
Us Lean 3 old-timers just view this as a standard deficiency of `rw` which we know how to work around. But it's not unreasonable for new users to expect `rw` to work here. Should the behaviour of `rw` be changed or is it not as simple as that?

**Comment by nomeata** [comment]
The example doesn't work any more (the `simp` tactic behaves different right now). Could someone who cares create a new mwe for this issue? (But likely it’s “work as intended” anyways, given the design of `rw`)
